US06767987B2
Subsequently, 100 parts of the resin (VIB-3) was fed into a same reaction vessel replaced with nitrogen, followed by elevating a temperature to 75° C. while agitating. There was added dropwise a mixture composed of 15.4 parts of methacrylic acid, 23.3 parts of styrene, 22.4 parts of isobutyl methacrylate, 5.5 parts of 2-hydroxyethyl methacrylate, 50.1 parts of the -caprolactone-modified acrylic monomer obtained in the Reference Example 3, 9.3 parts of “Niper BW” [benzoyl peroxide manufactured by Nihon Yushi, Ltd.], and 116.7 parts of ethyl acetate over 4 hours to allow to conduct a polymerization reaction. Also after that, agitation was allowed to continue over 4 hours to obtain a vinyl-based copolymer (VIA-5). Nonvolatile components were 48.6%.

reactant | methacrylic acid | C(C(=C)C)(=O)O | C4H6O2
reactant | styrene | C=CC1=CC=CC=C1 | C8H8
reactant | isobutyl methacrylate | C(C(=C)C)(=O)OCC(C)C | C8H14O2
reactant | 2-hydroxyethyl methacrylate | C(C(=C)C)(=O)OCCO | C6H10O3
reactant | caprolactone | C1(CCCCCO1)=O | C6H10O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | benzoyl peroxide | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
